US09163051B2
Step 2: Synthesis of 2,4-dibromo-1-(1-methoxy-1-methylethoxymethyl)benzene
Under a nitrogen atmosphere, to a solution of 2,4-dibromobenzyl alcohol (40 g, 0.15 mol) in tetrahydrofuran (300 ml) was added 2-methoxypropene (144 ml, 1.5 mol) at room temperature and then the mixture was cooled to 0° C. At the same temperature, pyridinium p-toluenesulfonic acid (75 mg, 0.30 mmol) was added and the mixture was stirred for 1 hour. The reaction mixture was poured into a saturated aqueous solution of sodium hydrogen carbonate cooled to 0° C., and extracted with toluene. The organic layer was washed with a saturated aqueous solution of sodium chloride, dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure to give the titled compound as an oil in quantitative yield. The product was used in the next step without further purification.

reactant | 2,4-dibromobenzyl alcohol | 0.15 mol, 40 g | BrC1=C(CO)C=CC(=C1)Br | C7H6Br2O
reactant | 2-methoxypropene | 1.5 mol, 144 ml | COC(=C)C | C4H8O
reactant | pyridinium p-toluenesulfonic acid | 0.30 mmol, 75 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C.[NH+]1=CC=CC=C1
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 2,4-dibromo-1-(1-methoxy-1-methylethoxymethyl)benzene | quantitative yield | BrC1=C(C=CC(=C1)Br)C(OC)OC(C)C | C11H14Br2O2
